Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of lymphoma (possible CNS involvement, 
currently on MTX, treated at ___) who presents from his rehab 
with chest pain and SOB, found to have submassive PE and small 
LUL infarct.  
 
This morning he noticed a jolting, left-sided chest pain that 
lasted for a few seconds and then went away. The pain was worse 
with deep breaths. When the pain did not improve, he was brought 
to the ___ ED for further evaluation. He denies f/c, 
lightheadedness/dizziness, SOB/cough, abd pain/N/V, dysuria, 
changes in BM, hemoptysis.
 
In the ___ ED, troponins were negative, and CTA-PE showed Left 
upper lobe segmental and subsegmental pulmonary embolism with 
small 
left upper lobe infarct.  He was started on IV heparin and 
admitted to medicine.

This morning, he feels well.  He has no chest pain at rest, but 
after several minutes of walking he has some substernal 
pleuritic pain that resolves with rest.  He is somewhat confused 
about the events of yesterday but does recall having chest pain.

I later spoke to his wife, who communicated that she would like 
him back to Rehab if possible and medically clear, to help him 
get his strength back.

 
Past Medical History:
Lymphoma, ? CNS involvement, being treated at ___ with meds 
including MTX
HTN
 
Social History:
___
Family History:
Reviewed, and noncontributory
 
Physical Exam:
Vitals:  98.0, BP 154/70, HR 59, RR 17, 98 Ra
Ambulatory:  O2 sat (done with myself and Dr. ___ AM) 
consistently >97% without supplemental O2, HR with appropriate 
response to exercise but did not exceed 105bpm 
General: Alert, NAD, sitting up in bed
HEENT: Sclerae anicteric, MMM, oropharynx clear
Neck: supple, no LAD  
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: RRR, no gallop, no murmur
Abdomen: soft, NT/ND, BS+
Ext: warm, well perfused, no edema 
Neuro: No focal deficits.  Oriented to self, thinks he is in 
___, thinks year is ___, doesn't know the city, 
does know his wife's name
___:  ___ red rash on back, port on left chest wall
 
Pertinent Results:
___ 10:15AM BLOOD WBC-4.7 RBC-2.92* Hgb-9.4* Hct-28.0* 
MCV-96 MCH-32.2* MCHC-33.6 RDW-16.3* RDWSD-57.6* Plt ___
___ 10:15AM BLOOD ___ PTT-43.1* ___
___ 10:15AM BLOOD Glucose-124* UreaN-10 Creat-0.6 Na-141 
K-3.8 Cl-101 HCO3-26 AnGap-14
___ 08:08PM BLOOD cTropnT-<0.01
___ 11:25AM BLOOD cTropnT-<0.01
___ 11:25AM BLOOD proBNP-910*
___ 11:25AM BLOOD D-Dimer-2249*
___ 10:15AM BLOOD Calcium-8.4 Phos-4.4 Mg-2.2

CXR ___
No acute intrathoracic abnormality.  No evidence of a lytic 
lesion.  Please note that CT is more sensitive for detection of 
bony lesions

CTA-PE ___. Left upper lobe segmental and subsegmental pulmonary embolism 
with small left upper lobe infarct. 
2. Focal narrowing of the proximal right subclavian vein with 
venous 
collaterals in the right chest wall. 
3. 8 mm subpleural nodule right upper lobe.  Comparison with 
prior chest CTs is recommended if available; if not available, 
chest CT in 3 months is recommended given the patient's history 
of malignancy. 
4. Mild bronchial wall thickening could suggest chronic airways 
disease. 
5. Small bilateral pleural effusions and bilateral lower lobe 
compressive atelectasis.. 
6. 1.8 cm hypodense lesion in the spleen is indeterminate, 
potentially related to early arterial phase of imaging, though a 
neoplastic lesion is not excluded given the patient's history of 
malignancy. 
 
Brief Hospital Course:
___ with a h/o lymphoma, actively on chemo at ___, who 
presents with SOB and CP. He was found to have LUL segmental and 
subsegmental PE. He was started on IV Heparin and subsequently 
transitioned to Low Molecular Weight Heparin twice daily, 1mg/kg 
(80mg).

He was hemodynamically stable, had negative troponins x2, no 
concerning EKG changes, and had a normal ambulatory oxygen 
saturation and ambulatory heart rate.

He will be discharged back to his Rehab to continue ongoing 
Rehabilitation, and will follow up with his Oncologist on 
___ for his next session of chemotherapy.

TRANSITIONAL ISSUES
===========================
- Lovenox 80mg SC BID has been started. To be continued 
indefinitely at this time
- No other medication changes have been made
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
3. Bisacodyl ___AILY:PRN constipation 
4. Fleet Enema (Saline) ___AILY:PRN constipation 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 
6. Senna 17.2 mg PO QHS:PRN constipation 
7. TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
8. Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO Q4H:PRN GI 
upset 
9. Lisinopril 40 mg PO DAILY 
10. Nystatin Oral Suspension 5 mL PO QID 
11. Sodium Bicarbonate 2600 mg PO Q6H 
12. Docusate Sodium 100 mg PO DAILY 
13. famciclovir 500 mg oral TID 
14. Famotidine 20 mg PO BID 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Vitamin D ___ UNIT PO DAILY 
17. melatonin 3 mg oral QHS 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC twice daily Disp #*60 
Syringe Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Aluminum-Magnesium Hydrox.-Simethicone 10 mL PO Q4H:PRN GI 
upset  
4.  Bisacodyl ___AILY:PRN constipation  
5.  Docusate Sodium 100 mg PO DAILY  
6.  famciclovir 500 mg oral TID  
7.  Famotidine 20 mg PO BID  
8.  Fleet Enema (Saline) ___AILY:PRN constipation  
9.  Lisinopril 40 mg PO DAILY  
10.  melatonin 3 mg oral QHS  
11.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
12.  Nystatin Oral Suspension 5 mL PO QID  
13.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
14.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
15.  Senna 17.2 mg PO QHS:PRN constipation  
16.  Sodium Bicarbonate 2600 mg PO Q6H start before next 
admission (___) 
start before next admission (___)  
17.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate  
18.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pulmonary Embolism

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
for chest pain and found to have a blood clot in his lungs.  You 
were started on a blood thinner medication called Lovenox to 
treat this clot.  This is an injection given twice per day.

Otherwise, please follow up with your Oncology providers, and 
continue Rehab, as you have been doing!

We wish you all the best!
- ___ Team
 
Followup Instructions:
___